US07368578B2
To a solution of 2-ethyl-4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-thiazole (4.49 g) in methanol (50 mL) was added concentrated hydrochloric acid (2.17 mL) at room temperature, and the mixture was stirred at 50° C. for 1 hr. The reaction mixture was evaporated under reduced pressure and the residue was washed with ethyl acetate-diethyl ether to give 4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol (4.18 g, yield 95%) as orange crystals. hydrochloride. melting point: 222-224° C.

reactant | 2-ethyl-4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-thiazole | 4.49 g | C(C)C=1SC=C(N1)\C=C\C=1C(=NN(C1)C1=CC=CC=C1)OCOC | C18H19N3O2S
reactant | hydrochloric acid | 2.17 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol | 4.18 g, yield 95% | C(C)C=1SC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)O | C16H15N3OS
